US07642264B2
2-Pyrrol-1-yl-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine
The title compound was prepared from 2-chloro-4-(4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine (example A.2) (0.16 g, 0.5 mmol) and commercially available pyrrole (0.067 g, 1.0 mmol) according to the general procedure IVa. Obtained as an off-white solid (0.04 g, 22%). MS (EI) 357.0 [(M)+]; mp 120.5° C.

reactant | 2-chloro-4-(4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine | 0.5 mmol, 0.16 g | ClC1=NC(=CC(=N1)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C12H5ClF6N2
reactant | pyrrole | 1.0 mmol, 0.067 g | N1C=CC=C1 | C4H5N
product | 2-Pyrrol-1-yl-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine | N1(C=CC=C1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C16H9F6N3
